US09447084B2
4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid
Into a 500-mL round-bottom flask, was placed ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoate (7 g, 14.59 mmol, 1.00 equiv), methanol (100 mL), water (100 mL), sodium hydroxide (1.75 g, 43.75 mmol, 3.00 equiv). The resulting solution was stirred for 4 h at 90° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was extracted with 2×50 mL of ethyl acetate and the aqueous layers combined. The pH value of the solution was adjusted to 1-2 with hydrogen chloride aq. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×50 mL of brine. The mixture was dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 5.1 g (77%) of 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid as a light yellow solid.

reactant | ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoate | 14.59 mmol, 7 g, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)OCC)C=C1)C)C(F)(F)F | C21H16ClF6NO3
reactant | methanol | 100 mL | CO | CH4O
reactant | sodium hydroxide | 43.75 mmol, 1.75 g, 3.00 equiv | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H12ClF6NO3
